US07812021B2
a) 6-{(SR)-1-[(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-nicotinonitrile (XVI-B-4)
To a suspension of PPh3 (PPh3 polymer bound, 3 mmol PPh3/g resin) (1.97 g) in THF (300 mL) at 0° C. were added 6-hydroxy-nicotinonitrile (0.61 g, 5.1 mmol) and then DBAD (1.10 g). After 5 minutes was added (RS)-1-[(3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanol (1.20 g, 3.4 mmol, described herein above). The reaction mixture was stirred over night at RT, filtered on celite and concentrated under vacuo. Extraction with EtOAc/aq.NaOH 1M, followed by column chromatography (SiO2, EtOAc/H, 1:4) yielded 1.02 g (66%) of the title compound as a colorless oil. ES-MS m/e: 452.0 (M+H+).

reactant | PPh3 | 3 mmol, 1.97 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 6-hydroxy-nicotinonitrile | 5.1 mmol, 0.61 g | OC1=NC=C(C#N)C=C1 | C6H4N2O
reactant | DBAD | 1.10 g | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | (RS)-1-[(3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanol | 3.4 mmol, 1.20 g | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(C)O | C19H21Cl2NO
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 6-{(SR)-1-[(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-nicotinonitrile | 1.02 g, 66% | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(C)OC1=NC=C(C#N)C=C1 | C25H23Cl2N3O
